US06130234
4-{4-[4-(4-Methyl-benzyl)-piperidin-1-yl]-but-1-ynyl}-phenol
4-(4-Methylbenzyl)-1-(1-butyn-3-yl)piperidine. A mixture of 4-methylbenzylpiperidine hydrochloride (1.129 g, 5.0 mmol), 1-butyn-3-ylmethanesulfonate (0.888 g, 5.0 mmol), and potassium carbonate (2.48 g, 12.5 mmol) in 30 mL of acetonitrile is heated to reflux for 12 hr. The inorganic salt is removed through a short column of silica gel and washed with ethyl acetate (3×30 mL). Evaporation of solvents gives a residue, which is purified by flash chromatography (50% EtOAc in hexane), giving 0.96 g (80%) of the title compound as pale yellow oil. 1H NMR (CDCl3) 1.26 (m, 3 H), 1.50 (m, 1 H), 1.61 (m, 2 H), 1.96 (m, 2 H), 2.31 (s, 3 H), 2.36 (m, 2 H), 2.47-2.59 (m, 4 H), 2.86 (d, J=11.4 Hz, 2 H), 7.07 (dd, J1==7.8 Hz, J2=10.5 Hz, 4 H).

reactant | 4-(4-Methylbenzyl)-1-(1-butyn-3-yl)piperidine | CC1=CC=C(CC2CCN(CC2)C(C#C)C)C=C1 | C17H23N
reactant | 4-methylbenzylpiperidine hydrochloride | 5.0 mmol, 1.129 g | Cl.CC1=CC=C(CN2CCCCC2)C=C1
reactant | 1-butyn-3-ylmethanesulfonate | 5.0 mmol, 0.888 g | C#CC(C)CS(=O)(=O)[O-]
reactant | potassium carbonate | 12.5 mmol, 2.48 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
product | 4-{4-[4-(4-Methyl-benzyl)-piperidin-1-yl]-but-1-ynyl}-phenol | 0.96 g, 80% | CC1=CC=C(CC2CCN(CC2)CCC#CC2=CC=C(C=C2)O)C=C1 | C23H27NO
